US06022987
In the same apparatus and procedures as EXAMPLE 2 above, 14.70 g (100 mmol) of 1,4-dichlorobenzene and 0.027 g (1.0 mmol) of aluminum foil were alkylated with 4.98 g (21.4 mmol) of (2,2-dichloroethyl)trichlorosilane for 1 hour at 80° C. Freshly distilled hexane (50 ml) was added to the reaction mixture and insoluble solids in hexane were filtered from the organic soultion. After hexane and benzene were distilled, the reaction products were vacuum distilled to give 3.33 g of [2,2-bis(2,5-dichlorophenyl)ethyl]trichlorosilane (bp; 161-163° C./1 torr, yield; 59%).

reactant | 1,4-dichlorobenzene | 100 mmol, 14.70 g | ClC1=CC=C(C=C1)Cl | C6H4Cl2
reactant | aluminum | 1.0 mmol, 0.027 g | [Al] | Al
reactant | (2,2-dichloroethyl)trichlorosilane | 21.4 mmol, 4.98 g | ClC(C[Si](Cl)(Cl)Cl)Cl | C2H3Cl5Si
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 50 ml | CCCCCC | C6H14
product | [2,2-bis(2,5-dichlorophenyl)ethyl]trichlorosilane | 3.33 g, yield; 59% | ClC1=C(C=C(C=C1)Cl)C(C[Si](Cl)(Cl)Cl)C1=C(C=CC(=C1)Cl)Cl | C14H9Cl7Si
